US08372865B2
5-Methyl-6-nitro-1H-indazole (354 mg, 2.0 mmol) was dissolved in DMF (10 ml) and the mixture was cooled to 0° C. with stirring. Lithium hexamethyldisilazane (2.2 ml of 1.0 M toluene solution) was added dropwise. The mixture was allowed to stir for five minutes, and then (2-bromoethoxy)-tert-butyldimethylsilane (0.52 ml, 2.4 mmol) was added. The mixture was stirred for 30 minutes at 0° C., then allowed to warm to room temperature with stirring for four hours. The reaction was quenched with pH2 buffer solution, and the mixture was then extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. The residue was purified by flash chromatography (gradient 9:1 to 4:1 hexanes/ethyl acetate) to give 340 mg (50.7%) of 1-[2-(tert-butyl-dimethyl-silanyloxy)-ethyl]-5-methyl-6-nitro-1H-indazole as a white powder.

reactant | 5-Methyl-6-nitro-1H-indazole | 2.0 mmol, 354 mg | CC=1C=C2C=NNC2=CC1[N+](=O)[O-] | C8H7N3O2
reactant | Lithium hexamethyldisilazane | 1.0 M, 2.2 ml | C[Si](N[Si](C)(C)C)(C)C.[Li]
reactant | (2-bromoethoxy)-tert-butyldimethylsilane | 2.4 mmol, 0.52 ml | BrCCO[Si](C)(C)C(C)(C)C | C8H19BrOSi
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 1-[2-(tert-butyl-dimethyl-silanyloxy)-ethyl]-5-methyl-6-nitro-1H-indazole | 340 mg, 50.7% | C(C)(C)(C)[Si](OCCN1N=CC2=CC(=C(C=C12)[N+](=O)[O-])C)(C)C | C16H25N3O3Si
